US06350870B2
Lorazepam ethanol solvate (5 kg) was suspended in ethyl acetate (20 L). The suspension was heated to 60° C. for one hour with rapid stirring and then cooled to 15° C. The suspension was filtered to recover the lorazepam crystals. The crystals were then washed with ethyl acetate (2L) and dried at 50° C. under 65 mm Hg vacuum for two hours to give crystalline lorazepam (3.8 kg, 80%).

reactant | Lorazepam ethanol | 5 kg | C=1C=CC(=C(C1)C2=NC(C(=O)NC3=C2C=C(C=C3)Cl)O)Cl.C(C)O
solvent | ethyl acetate | 20 L | C(C)(=O)OCC | C4H8O2
product | lorazepam | 3.8 kg, 80% | C=1C=CC(=C(C1)C2=NC(C(=O)NC3=C2C=C(C=C3)Cl)O)Cl | C15H10Cl2N2O2
